US07790715B2
c) (R)—N-(1-Benzylpyrrolidin-3-yl-N-methylbenzamide
0.778 g of (R)-1-benzylpyrrolidin-3-yl)methylamine is dissolved in 20 ml of dichloromethane. 0.521 ml of triethylamine is added and the solution is cooled to 0° C. in an ice bath. 0.434 ml of benzoyl chloride is added dropwise and the reaction solution is subsequently stirred at 0° C. over 50 minutes. The reaction solution is diluted with 20 ml of dichloromethane and washed with 20 ml of saturated aqueous sodium hydrogencarbonate solution and 20 ml of brine, dried over sodium sulphate and concentrated by evaporation. The residue is purified by means of flash chromatography (SiO2 60F). The title compound is obtained as a colourless oil. Rf=0.75 (200:20:1 dichloromethane-methanol-25% conc. ammonia); Rt=3.08

reactant | methylamine | CN | CH5N
reactant | triethylamine | 0.521 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.434 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-Benzylpyrrolidin-3-yl-N-methylbenzamide | C(C1=CC=CC=C1)N1CC(CC1)C1=C(C(=O)NC)C=CC=C1 | C19H22N2O
